US06034275
350 mg of N-methyl-2-biphenylyl-pyrrolidine hydrochloride are suspended in 10 ml of carbon disulphide and treated with 341 mg of aluminium chloride. A solution of 842 mg of 4-bromo-benzoyl chloride in 3 ml of carbon disulphide is added dropwise to this viscous mass. The mixture is held at reflux for 2 hours and evaporated. The residue is triturated in toluene and then in ethyl acetate, with 90 mg of (±)(4-bromophenyl)-[4'-(1-methylpyrrolidin-2-yl)-biphenyl-4-yl]-methanone.hydrochloride, m.p. 225° C., being obtained.

reactant | N-methyl-2-biphenylyl-pyrrolidine hydrochloride | 350 mg | Cl.CN1C(CCC1)C1=C(C=CC=C1)C1=CC=CC=C1
reactant | aluminium chloride | 341 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-bromo-benzoyl chloride | 842 mg | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | carbon disulphide | 10 ml | C(=S)=S | CS2
solvent | carbon disulphide | 3 ml | C(=S)=S | CS2
product | (±)(4-bromophenyl)-[4'-(1-methylpyrrolidin-2-yl)-biphenyl-4-yl]-methanone.hydrochloride | 90 mg | Cl.BrC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1N(CCC1)C | InChI=1S/C24H22BrNO.ClH/c1-26-16-2-3-23(26)19-8-4-17(5-9-19)18-6-10-20(11-7-18)24(27)21-12-14-22(25)15-13-21;/h4-15,23H,2-3,16H2,1H3;1H
